US05023256
Grams 10 2-benzylamino-3-amino pyridine and 3 g urea in 50 ml xylene are heated under reflux for 3 hours. The reaction mixture is then cooled to room temperature, the undissolved product filtered and washed with toluene; the solid dried in vacuo at 80° C. gives 5.1 g 3-benzyl-2-hydroxy-3H-imidazo[4,5-b]pyridine which, recrystallized from absolute ethyl alcohol, melts at 177°-179° C.

reactant | 2-benzylamino-3-amino pyridine | C(C1=CC=CC=C1)NC1=NC=CC=C1N | C12H13N3
reactant | urea | 3 g | NC(=O)N | CH4N2O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-benzyl-2-hydroxy-3H-imidazo[4,5-b]pyridine | 5.1 g | C(C1=CC=CC=C1)N1C(=NC=2C1=NC=CC2)O | C13H11N3O
